US06051712
In an analogous manner to that described in Example 1(g), by alkylating tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-hydroxy-piperidine-1-carboxylate with 2-chloromethyl-4-(β-trimethylsilyl-ethoxymethoxy)-naphthalene there was obtained tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-[4-(2-trimethylsilyl-ethoxy-methoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate as a light yellow oil; MS: 530 [M-(C2H4 +CH2O)]+.

reactant | tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-hydroxy-piperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C17H22N2O3
reactant | 2-chloromethyl-4-(β-trimethylsilyl-ethoxymethoxy)-naphthalene | ClCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C17H23ClO2Si
product | tert-butyl (3RS,4RS)-4-(4-cyano-phenyl)-3-[4-(2-trimethylsilyl-ethoxy-methoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C34H44N2O5Si
